US05753595
Under a nitrogen atmosphere a solution of 30.6 grams (109 mmole) of ethyl N-(4-chloro-2,6-difluoro-3-nitrophenyl)carbamate and 18 mL (449 mmole) of methanol in 175 mL of dioxane was stirred, and 218 mL (218 mmole) of 1M sodium trimethylsilanoate (in tetrahydrofuran) was added dropwise during a 45 minute period. Upon completion of the addition the reaction mixture was heated to 65° C., where it stirred for three hours. At the conclusion of this period the reaction mixture was allowed to cool to ambient temperature, where it stirred for about 18 hours. The reaction mixture was concentrated under reduced pressure to a residue, which was taken up in cold 3N hydrochloric acid. The resulting solid was collected by filtration, washed with petroleum ether, and heat dried under vacuum, yielding 21.3 grams of ethyl N-(4-chloro-6-fluoro-2-methoxy-3-nitrophenyl)carbamate. The NMR spectrum was consistent with the proposed structure.

reactant | ethyl N-(4-chloro-2,6-difluoro-3-nitrophenyl)carbamate | 109 mmole, 30.6 grams | ClC1=C(C(=C(C(=C1)F)NC(OCC)=O)F)[N+](=O)[O-] | C9H7ClF2N2O4
reactant | methanol | 449 mmole, 18 mL | CO | CH4O
solvent | dioxane | 175 mL | O1CCOCC1 | C4H8O2
product | ethyl N-(4-chloro-6-fluoro-2-methoxy-3-nitrophenyl)carbamate | 21.3 grams | ClC1=C(C(=C(C(=C1)F)NC(OCC)=O)OC)[N+](=O)[O-] | C10H10ClFN2O5
